US04810722
Preparation of the 2-oxo-5-n-propyloxy pyrrolidine.
To a mixture of 28.64 g of succinimide and of 1200 cm3 of N-propanol, cooled to -7° C., 7 g of sodium bobohydride is added. This is agitated for 4 hours at -7° to 0° C., while adding every 15 minutes 15 drops of a 2N solution of hydrochloric acid in N-propanol. The mixture is then taken to a pH of about 2 by adding a 2N solution of hydrochloric acid in N-propanol, agitated for 1 hour at about 0° C., then returned to pH 7 by the addition of a saturated solution of potassium hydroxide in N-propanol. After allowing a return to ambient temperature, the solvent is evaporated off under reduced pressure. The residue is extracted with 550 cm3 of chloroform, filtered, the organic solution is washed with water, dried and the solvent is evaporated under reduced pressure. 27.5 g of the expected product is obtained. m.p. 52°-54° C.

reactant | succinimide | 28.64 g | C1(CCC(N1)=O)=O | C4H5NO2
reactant | sodium | 7 g | [Na] | Na
reactant | hydrochloric acid | Cl | ClH
reactant | potassium hydroxide | [OH-].[K+]
reactant | N-propanol | CCCO | C3H8O
reactant | N-propanol | 1200 cm3 | CCCO | C3H8O
product | 2-oxo-5-n-propyloxy pyrrolidine | 27.5 g | O=C1NC(CC1)OCCC | C7H13NO2
